US05278148
220 mg (0.865 mmol) of 1-[(2S,3S)-3-amino-4-cyclohexyl-2-hydroxybutyl]-2-pyrrolidinone and 300 mg (0.618 mmol) of 1-(t-butoxycarbonyl)-N-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamoyl]-L-histidine were dissolved in 5 ml of methylene chloride, cooled to -20° and treated with 0.16 ml of N,N-diisopropylethylamine and 0.12 ml of diethyl cyanophosphonate. Thereupon, the reaction mixture was stirred at room temperature for 19 hours and subsequently poured into a mixture of ice and dilute sodium bicarbonate solution and extracted with methylene chloride. The methylene chloride extracts were dried over magnesium sulfate and evaporated, and the residue was chromatographed on 5 g of silica gel with a mixture of methylene chloride and isopropanol as the eluting agent, whereby there were obtained 430 g (96%) of (S)-N-[(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-(2-oxo-1-pyrrolidinyl)propyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]-3-t-butoxycarbonylimidazole-4propionamide as a yellow foam which was used directly in the next step.

reactant | 1-[(2S,3S)-3-amino-4-cyclohexyl-2-hydroxybutyl]-2-pyrrolidinone | 0.865 mmol, 220 mg | N[C@H]([C@H](CN1C(CCC1)=O)O)CC1CCCCC1 | C14H26N2O2
reactant | 1-(t-butoxycarbonyl)-N-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamoyl]-L-histidine | 0.618 mmol, 300 mg | C(C)(C)(C)OC(=O)N1C=C(C[C@H](NC([C@H](CC2=CC=CC=C2)CC(C(C)(C)C)=O)=O)C(=O)O)N=C1 | C26H35N3O6
reactant | N,N-diisopropylethylamine | 0.16 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diethyl cyanophosphonate | 0.12 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (S)-N-[(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-(2-oxo-1-pyrrolidinyl)propyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]-3-t-butoxycarbonylimidazole-4propionamide | 430 g, 96% | C1(CCCCC1)C[C@@H]([C@H](CN1C(CCC1)=O)O)NC([C@H](CC=1N(C=NC1)C(=O)OC(C)(C)C)NC([C@H](CC1=CC=CC=C1)CC(C(C)(C)C)=O)=O)=O | C40H59N5O7
